US04648996
2-Bromobenzaldehyde (0.09 mol) was then added in tetrahydrofuran (25 mL) and after the mixture had been stirred for a further 30 min at 0° C. hexane and aqueous methanol (40:60) was added. The hexane extract was concentrated and the residue was distilled to yield 2-(1-decenyl)-1-bromobenzene (90%).

reactant | 2-Bromobenzaldehyde | 0.09 mol | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | hexane | CCCCCC | C6H14
reactant | methanol | CO | CH4O
reactant | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 2-(1-decenyl)-1-bromobenzene | 90% | C(=CCCCCCCCC)C1=C(C=CC=C1)Br | C16H23Br
